US07858647B2
30.6 ml chlorosulfonic acid were added in one portion to 25.0 g N-phenethyl-acetamide. The reaction mixture was stirred at room temperature for one hour, then 100 ml dichloromethane were added and the reaction mixture was poured on ice water. The organic layer was separated washed twice with 50 ml brine and then dried over MgSO4. The solvent was removed in vacuo to obtain 22.0 g 4-(2-Acetylamino-ethyl)-benzenesulfonyl chloride as a white solid.

reactant | chlorosulfonic acid | 30.6 ml | ClS(=O)(=O)O | ClHO3S
reactant | N-phenethyl-acetamide | 25.0 g | C(CC1=CC=CC=C1)NC(C)=O | C10H13NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(2-Acetylamino-ethyl)-benzenesulfonyl chloride | 22.0 g | C(C)(=O)NCCC1=CC=C(C=C1)S(=O)(=O)Cl | C10H12ClNO3S
